US06770648B2
(2-Chloro-4-nitro-phenyl)-acetic Acid (111)
The title compound was prepared using the method of example 110, starting with diethyl malonate (Aldrich, 30.5 mL, 200 mmol), 3,4-dichloronitrobenzene (Aldrich, 19.2 g, 100 mmol), cesium carbonate (Aldrich, 81.5 g, 250 mmol) and 150 mL of aqueous 6N HCl solution. 18.8 g (87%) of compound 111 was obtained as pale yellow solid.

reactant | diethyl malonate | 200 mmol, 30.5 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3,4-dichloronitrobenzene | 100 mmol, 19.2 g | ClC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | cesium carbonate | 250 mmol, 81.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 6N | Cl | ClH
product | (2-Chloro-4-nitro-phenyl)-acetic Acid | 18.8 g, 87% | ClC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C8H6ClNO4
